US04812469
2-(2,3-Dihydro-2-oxo-3-phenyl-5-benzofuranyl)acetamide
190 ml of 80% strength sulfuric acid solution are added to a mixture of 16 g of mandelic acid and 15 g of 4-hydroxyphenylacetamide [J. Am. Chem. Soc. (1946) p. 2633]. The medium is heated very rapidly to 80° C. and immediately hydrolyzed using 600 g of ice. The aqueous phase is extracted with 3 times 200 ml of chloroform and the organic phase washed with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product obtained is recrystallized in chloroform.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | mandelic acid | 16 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | 4-hydroxyphenylacetamide | 15 g | OC1=CC=C(C=C1)CC(=O)N | C8H9NO2
product | 2-(2,3-Dihydro-2-oxo-3-phenyl-5-benzofuranyl)acetamide | Yield: 20% | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CC(=O)N | C16H13NO3
